US03950528
3-Amino-1-(3,4-dichlorobenzyl)-pyrazol-5-one ##SPC55##
144 g (10% excess) of β-amino-β-methoxyacrylic acid methyl ester are introduced into 500 ml of dioxane. 191 g of 3,4-dichlorobenzylhydrazine are introduced into the reaction mixture while flushing with nitrogen. The mixture is stirred for 2 hours at 60°, the solvent is driven off on a rotary evaporator, the residue is worked with 600 ml of 2 N NaOH and extracted with ether, and the aqueous phase is stirred with animal charcoal of one-half hour. After filtration, the mixture is adjusted to pH 5 with dilute acetic acid. The product which initially is obtained as an oil becomes crystalline on rubbing and is finally purified by recrystallising it again from alcohol. 139 g, corresponding to about 54% of theory, of the compound identified above, as felted colorless needles of melting point 159° are obtained.

reactant | β-amino-β-methoxyacrylic acid methyl ester | 144 g | COC(C=C(OC)N)=O | C5H9NO3
reactant | 3,4-dichlorobenzylhydrazine | 191 g | ClC=1C=C(CNN)C=CC1Cl | C7H8Cl2N2
solvent | dioxane | 500 ml | O1CCOCC1 | C4H8O2
product | 3-Amino-1-(3,4-dichlorobenzyl)-pyrazol-5-one | NC=1NN(C(C1)=O)CC1=CC(=C(C=C1)Cl)Cl | C10H9Cl2N3O
